US05719141
j) 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-hydroxyethyl)cyclopropylmethyl]-1,3-oxazolidine
2.5 ml of diborane-dimethylsulfide complex are added to 18.0 g of 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[(1-vinylcyclopropyl)methyl]-1,3-oxazolidine, dissolved in 300 ml of tetrahydrofuran at 0° C. in the course of 3 minutes and the mixture is then stirred for 3 h, while cooling with ice. 5 ml of water, 16 ml of 2N sodium hydroxide solution and 8.5 ml of a 30% hydrogen peroxide solution are added in succession and the mixture is subsequently stirred at room temperature for 1 h. It is then diluted with ice-cold potassium carbonate solution and the aqueous phase is extracted with ethyl acetate. Purification of the crude product is carried out over 900 g of silica gel (mobile phase B): Rf (B)=0.25; anal. calc. for C16H35NO4 : C 64.18%, H 9.76%, N 4.68%; found C 64.05%, H 9.76%, N 4.73%.

reactant | 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[(1-vinylcyclopropyl)methyl]-1,3-oxazolidine | 18.0 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)C=C)(C)C | C16H27NO3
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 2N, 16 ml | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-hydroxyethyl)cyclopropylmethyl]-1,3-oxazolidine | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)CCO)(C)C | C16H29NO4
